US07332485B2
1-[(Benzyloxy-Formyl-Amino)-Methyl]-Cyclohexanecarboxylic Acid
To a cold solution of formic acid (15.3 mL, 0.4 mol) in dichloromethane (100 mL) at 0° C. under a nitrogen atmosphere was added acetic anhydride (5.75 mL, 60 mmol). After 1 h, a solution of 1-(benzyloxyamino-methyl)-cyclohexanecarboxylic acid from Preparation 19 (4.41 mmol theoretical) in dichloromethane (50 mL) was added. The mixture was stirred at room temperature for 18 h and was concentrated in vacuo. Brine (100 mL) was added and the mixture was extracted with dichloromethane (100 mL×2). The combined organic extracts were dried (MgSO4) and were evaporated in vacuo to yield the title compound as a pale, orange oil (1.77 g, 100%). MH+292.

reactant | formic acid | 0.4 mol, 15.3 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 60 mmol, 5.75 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(benzyloxyamino-methyl)-cyclohexanecarboxylic acid | C(C1=CC=CC=C1)ONCC1(CCCCC1)C(=O)O | C15H21NO3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-[(Benzyloxy-Formyl-Amino)-Methyl]-Cyclohexanecarboxylic Acid | C(C1=CC=CC=C1)ON(C=O)CC1(CCCCC1)C(=O)O | C16H21NO4
